US05292901
3-(6-Ethoxymethyl-1,3-benzodioxole-5-yl)propionic acid
0.6 g of metallic sodium was dissolved in 100 ml of ethanol. 2.0 g of 3-(6-chloromethyl-1,3-benzodioxole-5-yl)propionic acid was added in small portions to the solution. The mixture was heated at 50° C. for 2 h. The solvent was distilled off and the residue was acidified with 1N hydrochloric acid. After extraction with chloroform, the organic layer was dried over magnesium sulfate. The solvent was distilled off. After separation according to silica gel column chromatography (chloroform), 0.73 g of the intended compound in the form of colorless crystals was obtained.

reactant | sodium | 0.6 g | [Na] | Na
reactant | 3-(6-chloromethyl-1,3-benzodioxole-5-yl)propionic acid | 2.0 g | ClCC=1C(=CC2=C(OCO2)C1)CCC(=O)O | C11H11ClO4
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 3-(6-Ethoxymethyl-1,3-benzodioxole-5-yl)propionic acid | C(C)OCC=1C(=CC2=C(OCO2)C1)CCC(=O)O | C13H16O5
